Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],1.25755903661
[H:1]/[C:2](=[C:3](/[H:4])[O:5][C:6])[C:8]=[O:7]>>[H:1][C:2]1=[C:3]([H:4])[O:5][C:6][O:7][C:8]1,-0.614443706691
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[C:2]([H:3])#[C:4][C:5][O:6][H:7].[O:1],6.36085921204
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7617049580700002
[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][H:8].[H:6]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],-1.95743956127
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.46724473641
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.81751046
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1],3.89452825898
[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.5967368634
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.75283047775
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],3.9517265079300015
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],3.05656611143
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.40385985524
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.39505557991
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.64487237089
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8].[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-0.207809175531
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7]>>[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.50941998498
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.71860266733
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.48939835224
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5],4.812252587980001
[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13],1.77557392285
[C:3]([H:4])([H:5])=[C:6][H:7].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],2.18379233953
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]([C:2]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([H:3])[H:4].[C:5],3.2330337745
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9].[O:1],8.17619359539
[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56339685949
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.76872758489
[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.278152810806
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],4.74467041933
